* SPICE Netlist for the given schematic

R1 8 10 R1
R2 5 2 R2

I1 5 7 In1_2
I2 6 4 In2_2

* Voltage for visualization, replace with actual voltage if needed
V1 6 9 V2_n_tot

.end